US04112236
Step A(3): Preparation of Ethyl 4-(3-Bromopropyl)benzoate
A mixture of p-(3-bromopropyl)benzoic acid (100.8 g.; 0.41 mole), benzene (290 ml.), ethanol (60 ml.) and concentrated sulfuric acid (1.4 ml.) is heated under reflux under a Dean and Stark constant water separator until the evolution of water ceases. The time required is 23 hours.

reactant | p-(3-bromopropyl)benzoic acid | 0.41 mole, 100.8 g | BrCCCC1=CC=C(C(=O)O)C=C1 | C10H11BrO2
reactant | benzene | 290 ml | C1=CC=CC=C1 | C6H6
reactant | ethanol | 60 ml | C(C)O | C2H6O
reactant | sulfuric acid | 1.4 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | Ethyl 4-(3-Bromopropyl)benzoate | BrCCCC1=CC=C(C(=O)OCC)C=C1 | C12H15BrO2
